US08293746B2
Step 18.2: 3-Fluoro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine
A suspension of 1-[2-(2-fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine (1.25 g, 4.92 mmol) and 10% palladium on carbon (0.2 g) in EtOH (20 mL) is stirred for 1 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a brown oil: ESI-MS: 225.1 [MH]+; tR=0.80 min (system 1).

reactant | 1-[2-(2-fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine | 4.92 mmol, 1.25 g | FC1=C(OCCN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C12H15FN2O3
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-Fluoro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | FC=1C=C(C=CC1OCCN1CCCC1)N | C12H17FN2O
